US09034866B2
Synthesis of (±)-9-fluoro-10-(3-hydroxy-4-methoxy-3-methylbut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with 1-methoxy-2-methylbut-3-yn-2-ol to give the titled compound as a grey solid (59 mg, 19%).

reactant | 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)F | C12H9BrFN3O2
reactant | 1-methoxy-2-methylbut-3-yn-2-ol | COCC(C#C)(O)C | C6H10O2
product | (±)-9-fluoro-10-(3-hydroxy-4-methoxy-3-methylbut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 59 mg, 19% | FC1=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C=C1C#CC(COC)(C)O | C18H18FN3O4
